US05288865
N,N',N"-Tris-(3-chloropropionyl) Melamine
To a stirring suspension of 2.3 g trichloromelamine in 40 ml CCl4 was added 7.62 g 3-chloropropionyl chloride under Argon. The reaction mixture was heated in an oil bath at 65°-70° C. for 6 hours. The reaction mixture was cooled and then diluted with 50 ml hexane. The precipitates were filtered, washed with hexane and dried under reduced pressure (3.9 g; 98% yield). The product thus obtained was characterized to be N'N',N"-tris (3-chloropropionyl) melamine by 1H NMR, 13C NMR, IR, and mass spectroscopy.

reactant | trichloromelamine | 2.3 g | ClNC1=NC(=NC(=N1)NCl)NCl | C3H3Cl3N6
reactant | 3-chloropropionyl chloride | 7.62 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | CCl4 | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | 50 ml | CCCCCC | C6H14
product | N,N',N"-Tris-(3-chloropropionyl) Melamine | 98% yield | ClCCC(=O)NC1=NC(=NC(=N1)NC(CCCl)=O)NC(CCCl)=O | C12H15Cl3N6O3
